Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9].[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([O:8][H:9])[O:10][H:11],-3.08426682342
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],1.90279400582
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[O:1],7.683081126799999
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]#[C:8][H:9]>>[H:9].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]#[C:8],5.05173746989
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:11].[H:1][C:2]/[C:3]([C:4]([H:5])([H:6])[O:7][H:8])=[C:9](/[H:10])[O:12][H:13],4.0523068205
[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:10]([H:11])([H:12])[H:13],4.75432940608
[H:12].[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])/[C:10]([H:11])=[C:13]/[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17],-1.76180107974
[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:1]=[C:2]([H:3])[H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])[O:10][H:11],-0.67575861335
[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[C:8]([H:9])([H:10])[H:11])[O:12][H:13].[H:7],1.89614308437
[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-2.85627675782
[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.69229052928
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:4]([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:2][H:3],6.59621910145
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:1]#[C:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:5],2.52446368292
[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-6.09995366686
[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:5]([H:6])=[C:7]([H:8])[O:9][H:10].[O:1][C:2]#[C:3][H:4],4.89170976798
[C:1][C@:2]1([H:3])[O:4][O:5][C:6]1=[C:7]([H:8])[H:9]>>[C:1]=[C:2]([H:3])[C:6]([O:5][O:4])=[C:7]([H:8])[H:9],-0.84812443852
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7]>>[H:7].[O:1]=[C:2]([H:3])[O:4][C:5][H:6],4.3815134243500005
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.08394644975
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],4.31229677884
[C:5]#[C:6][O:7][H:8].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][H:8],-5.43932737696
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14],-0.8295485032600001
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1]=[C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],0.357810601356
[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9].[O:10][H:11]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.06257849096
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:3].[O:1]=[C:2]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],2.34275719355
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])=[C:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8],1.3189546345899998
[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-7.06089985
[C:1]#[C:2][C:11]([C:8]([C:3][C:4]([H:5])([H:6])[H:7])([H:9])[H:10])([H:12])[H:13]>>[C:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-3.0661423684400004
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],4.298223242
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-1.75319271926
